US07230001B1
2-amino-3-[1-(phenylmethyl)-4-piperidinyl]-3,4-dihydro-quinazoline
A solution of 10.0 g (33.85 mmol) of N-[(2-aminophenyl)methyl]-1-(phenylmethyl)-4-piperidineamine in 150 ml of anhydrous ethanol was combined with 4.0 g (37.76 mmol) of bromocyanogen added batchwise. The mixture was left to stand overnight at ambient temperature, the ethanol was eliminated in vacuo and the residue was distributed between dichloromethane and 1N sodium hydroxide solution. After working up in the conventional way, 9.3 g (86% of theoretical) of colourless crystals were obtained, Rf 0.4 (El D), which were further processed without any additional purification.

reactant | N-[(2-aminophenyl)methyl]-1-(phenylmethyl)-4-piperidineamine | 33.85 mmol, 10.0 g | NC1=C(C=CC=C1)CNC1CCN(CC1)CC1=CC=CC=C1 | C19H25N3
reactant | bromocyanogen | 37.76 mmol, 4.0 g | C(#N)Br | CBrN
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-amino-3-[1-(phenylmethyl)-4-piperidinyl]-3,4-dihydro-quinazoline | NC1=NC2=CC=CC=C2CN1C1CCN(CC1)CC1=CC=CC=C1 | C20H24N4
